US05756528
Step A: Preparation of N-Benzyl-N-3,3-diphenylpropyl amine
To a solution of 3,3-diphenylpropylamine (1.01 g, 4.79 mmol), acetic acid (28 ml, 049 mmol), and benzaldehyde (490 μl, 4.80 mmol) in CH3CN (2 ml) was added sodium cyanoborohydride (4.80 ml of a 1M solution in THF, 4.8 mmol) at 0° C. The reaction was allowed to warm to room temperature and stirred for 18 hrs. The solvent was evaporated in vacuo, quenched with sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried (Na2SO4) and the solvent evaporated in vacuo. The residue was dissolved in MeOH (100 ml) and sodium borohydride (182 mg, 5.55 mmol) added and the reaction was stirred for 30 min. The solvent was evaporated and the residue treated with sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was separated, washed with saturated brine, dried (Na2SO4) and the solvent evaporated in vacuo to afford the title compound as an oil.

reactant | 3,3-diphenylpropylamine | 4.79 mmol, 1.01 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | benzaldehyde | 4.80 mmol, 490 μl | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | sodium borohydride | 5.55 mmol, 182 mg | [BH4-].[Na+]
solvent | CH3CN | 2 ml | CC#N | C2H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | acetic acid | 28 ml | C(C)(=O)O | C2H4O2
product | N-Benzyl-N-3,3-diphenylpropyl amine | C(C1=CC=CC=C1)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H23N
